US09102673B2
Intermediate A1: Methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(2-chloro-4-iodopyridin-3-yl)prop-2-enoate (11.46 g, 24.25 mmole), K2CO3 (10.05 g, 72.7 mmole), CuI (0.462 g, 2.425 mmole), and L-proline (0.558 g, 4.85 mmole) were combined in 1,4-dioxane (120 mL). The mixture was degassed (3× pump/N2) then heated to reflux. After stirring at reflux overnight the mixture was cooled to RT, diluted with saturated aqueous NH4Cl, and extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered through a pad of Celite, and concentrated. The resulting solid was triturated with Et2O/hexanes to give the title compound (4.6 g, 90%) as an off-white solid. NMR (399 MHz, CDCl3): δ 9.25 (s, 1 H); 8.18 (d, J=5.8 Hz, 1 H); 7.35 (d, J=2.1 Hz, 1 H); 7.29 (d, J=5.9 Hz, 1 H); 3.99 (s, 3 H).

reactant | Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(2-chloro-4-iodopyridin-3-yl)prop-2-enoate | 24.25 mmole, 11.46 g | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/C=1C(=NC=CC1I)Cl | C17H14ClIN2O4
reactant | K2CO3 | 72.7 mmole, 10.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | L-proline | 4.85 mmole, 0.558 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 2.425 mmole, 0.462 g | [Cu]I
product | Methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 4.6 g, 90% | ClC1=NC=CC2=C1C=C(N2)C(=O)OC | C9H7ClN2O2
